US06734301B2
In a dry 25 mL flask 0.17 mg (1.0 mmol) of 2-methyl-3-nitroanisole is combined with 30 mg (0.97 mmol) paraformaldehyde in 7 mL of dimethylsulfoxide (sure-seal). This solution is treated with 1M Potassium t-butoxide/THF (0.20 mL) with the reaction mixture becoming bright red in color. After 2 hours the reaction mixture is diluted with water and ethyl acetate is added. The layers are separated followed by two ethyl acetate extractions. The organics are combined, washed with brine, dried over MgSO4, filtered, and concentrated to give a crude yellow oil that solidifies overnight. This material is purified by LC (45% ethyl acetate/heptane) to yield 140 mg (71%) of 2-(2-methoxy-6-nitrophenyl)-1-ethanol as a pale yellow solid. 1H NMR (300 MHz, DMSO-d6) δ2.90 (t, J=7 Hz, 2H), 3.50 (q, J=7 Hz, 2H), 3.88 (s, 3H), 4.74 (t, J=5 Hz, 1H), 7.32 (dd, J=2, 8 Hz, 1H), 7.46-7.36 (m, 2H); 13C NMR (75 MHz, CDCl3) δ158.5, 127.8, 116.2, 114.2, 62.0, 56.3, 29.2; IR (drift) 1536, 1469, 1458, 1352, 1279, 1266, 1217, 1065, 1040, 1031, 1014, 895, 806, 796, 740 cm−1.

reactant | 2-methyl-3-nitroanisole | 1.0 mmol, 0.17 mg | CC1=C(C=CC=C1[N+](=O)[O-])OC | C8H9NO3
reactant | paraformaldehyde | 0.97 mmol, 30 mg | C=O | CH2O
reactant | Potassium t-butoxide THF | 1M, 0.20 mL | CC(C)([O-])C.[K+].C1CCOC1
solvent | dimethylsulfoxide | 7 mL | CS(=O)C | C2H6OS
solvent | water | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-(2-methoxy-6-nitrophenyl)-1-ethanol | 140 mg, 71% | COC1=C(C(=CC=C1)[N+](=O)[O-])CCO | C9H11NO4
